US03932465
A solution of 7β-phenylacetylamino-3-(2-thenyl)-ceph-2-em-4ξ-carboxylic acid in 150 ml of methanol is diluted with 200 ml of ethyl acetate, then treated with 9.70 g of diphenyldiazomethane in 20 ml of ethyl acetate. The reaction mixture is stirred at room temperature for 1 hour and evaporated to dryness under reduced pressure. The residue is crystallised from ethyl acetate and chromatographed on 400 g of silica gel. Elution with ethyl acetate yields the 7β-phenylacetylamino-3-(2-thenyl)-ceph-2-em-4ξ-carboxylic acid diphenylmethylester, which after recrystallisation from ethyl acetate melts at 166°-167°; [α]D20 = + 359° ± 2° (c = 0.490 in 95% ethanol); thin-layer chromatogram (silica gel): Rf = 0.73 (system: toluene/ethyl acetate 1:1) and Rf = 0.56 (system: toluene/acetone 4:1); ultraviolet absorption spectrum (in 95% alkanol): strong terminal absorption; infrared absorption spectrum (in mineral oil); characteristic bands at 2,97μ, 5,62μ, 5,75μ, 6,03μ and 6,54μ.

reactant | 7β-phenylacetylamino-3-(2-thenyl)-ceph-2-em-4ξ-carboxylic acid | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(C(=CS2)CC2=CC=CS2)C(=O)O)C1=O | C20H18N2O4S2
reactant | diphenyldiazomethane | 9.70 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | methanol | 150 ml | CO | CH4O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 7β-phenylacetylamino-3-(2-thenyl)-ceph-2-em-4ξ-carboxylic acid diphenylmethylester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1C(=CS[C@H]2N1C([C@H]2NC(CC2=CC=CC=C2)=O)=O)CC2=CC=CS2 | C33H28N2O4S2
